US09210927B2
Preparation of (E)-N-((5-Cyclopropyl-1,3,4-oxadiazol-2-yl)methyl)-4-(3-(3,5-dichlorophenyl)-4,4,4-trifluorobut-1-en-1-yl)-2-methylbenzamide (AC89)
A solution of (E)-N-(2-(2-(cyclopropanecarbonyl)hydrazinyl)-2-oxoethyl)-4-(3-(3,5-dichlorophenyl)-4,4,4-trifluorobut-1-enyl)-2-methylbenzamide (200 mg, 0.379 mmol) in POCl3 (2.0 mL) was stirred at ambient temperature for 10 min, then the resultant reaction mixture was heated to 50° C. for 1 h. The reaction mixture was quenched with ice water at 0° C. and extracted with ethyl acetate. The combined ethyl acetate layer was washed with saturated NaHCO3 solution and brine solution, dried over anhydrous Na2SO4, and concentrated under reduced pressure. Purification by flash column chromatography (SiO2, 100-200 mesh; eluting with 50% ethyl acetate/pet ether) afforded the title compound as a light brown gummy material (70.0 mg, 36%): 1H NMR (400 MHz, CDCl3) δ 7.43 (m, 2H), 7.27 (m, 2H), 7.23 (m, 2H), 6.58 (d, J=16.0 Hz, 1H), 6.41 (dd, J=16.0, 7.6 Hz, 1H), 4.79 (d, J=5.6 Hz, 2H), 4.14 (m, 1H), 2.48 (s, 3H), 2.18 (m, 1H), 1.16 (m, 4H); ESIMS m/z 509.89 ([M+H]+); IR (thin film) 1666, 1166, 1112, 800 cm−1.

reactant | (E)-N-(2-(2-(cyclopropanecarbonyl)hydrazinyl)-2-oxoethyl)-4-(3-(3,5-dichlorophenyl)-4,4,4-trifluorobut-1-enyl)-2-methylbenzamide | 0.379 mmol, 200 mg | C1(CC1)C(=O)NNC(CNC(C1=C(C=C(C=C1)\C=C\C(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)=O)=O | C24H22Cl2F3N3O3
solvent | POCl3 | 2.0 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | (E)-N-((5-Cyclopropyl-1,3,4-oxadiazol-2-yl)methyl)-4-(3-(3,5-dichlorophenyl)-4,4,4-trifluorobut-1-en-1-yl)-2-methylbenzamide | C1(CC1)C1=NN=C(O1)CNC(C1=C(C=C(C=C1)\C=C\C(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)=O | C24H20Cl2F3N3O2
